US05585513
A solution of (E)-methyl 2-[2-(hydroxymethyl)phenyl]-3-methoxypropenoate (1 g) in toluene (10 ml) was added slowly to a solution of phosgene in toluene (12.5% w/w, 6.5 ml). After stirring for 3 hours, water (70 ml) was added and the resulting mixture was extracted with diethyl ether. The diethyl ether extract was washed with brine, dried over anhydrous sodium sulphate and evaporated under reduced pressure to leave an oil. The oil was purified by chromatography on silica gel, eluting with 30% ethyl acetate/hexane to give (E)-methyl 2-[2-(chloroformyloxymethyl)phenyl]-3-methoxypropenoate (0.163 g, 13%). 1H NMR (CDCl3): 3.7(s, 3H), 3.8(s, 3H), 4.5(s, 2H), 7.1-7.5(m, 4H), 7.6(s, 1H) ppm. IR (film): 1631, 1707, 1774 cm-1.

reactant | (E)-methyl 2-[2-(hydroxymethyl)phenyl]-3-methoxypropenoate | 1 g | OCC1=C(C=CC=C1)/C(/C(=O)OC)=C\OC | C12H14O4
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | water | 70 ml | O | H2O
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 6.5 ml | C1(=CC=CC=C1)C | C7H8
product | (E)-methyl 2-[2-(chloroformyloxymethyl)phenyl]-3-methoxypropenoate | 0.163 g, 13% | ClC(=O)OCC1=C(C=CC=C1)/C(/C(=O)OC)=C\OC | C13H13ClO5
